US07592363B2
{3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}AMINE
Then a solution of N-(diphenylmethylene)-N-{3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}amine (0.77 g, 1.31 mmol) in methanol (10 mL) was treated with sodium acetate (0.25 g, 3 mmol) and hydroxylamine hydrochloride (0.15 g, 2.2 mmol), and stirred at room temperature for 2 hours. The methanol was evaporated and the residue slurried in ether, the inorganic solid filtered off, and the ether stripped to afford crude product, which was purified by flash chromatography (silica 60, 10% hexane/ethyl acetate) to afford the title compound (0.28 g, 50%).

reactant | N-(diphenylmethylene)-N-{3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}amine | 1.31 mmol, 0.77 g | C1(=CC=CC=C1)C(=NC1=CC(=CC=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F)C1=CC=CC=C1 | C34H21F6N3
reactant | sodium acetate | 3 mmol, 0.25 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 2.2 mmol, 0.15 g | Cl.NO
solvent | methanol | 10 mL | CO | CH4O
product | {3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}AMINE | 0.28 g, 50% | FC1=C(CN2N=C3C(=CC=CC3=C2C=2C=C(C=CC2)N)C(F)(F)F)C(=CC(=C1)F)F | C21H13F6N3
